US08202858B2
3,6-Dimethyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene
To a suspension of 3,6-dimethyl-4,9-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-10-one from Example E2.3 (2.35 g, 10.3 mmol) in anhydrous THF (100 ml) at 0° C. was added lithium aluminium hydride (1.56 g, 41.2 mmol), and the resulting suspension was heated at reflux for 18 h then allowed to cool to room temperature. A further portion of lithium aluminium hydride (781 mg, 20.6 mmol) was added, and the mixture was heated at reflux for 3 h. The mixture was cooled to 0° C., 35% ammonia solution (10 ml) was added dropwise over 15 min and the mixture was stirred at room temperature for 30 min. The resulting suspension was filtered through Celite® filter agent and the filtrate concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 10% methanol:90% dichloromethane) to yield the title compound (1.60 g, 72%).

reactant | 3,6-dimethyl-4,9-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-10-one | CN1N=CC=2C(NC3=C(NC12)C=C(C=C3)C)=O | C12H12N4O
reactant | lithium aluminium hydride | 41.2 mmol, 1.56 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminium hydride | 20.6 mmol, 781 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonia | 10 ml | N | H3N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3,6-Dimethyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene | 1.60 g, 72% | CN1N=CC=2CNC3=C(NC12)C=C(C=C3)C | C12H14N4
